* NGSPICE file created from combined_latch_capture.ext - technology: sky130A

.subckt combined_latch_capture out_p out_n latch_sense_p latch_sense_n tail reset
+ vdd vss eval sense_p sense_n iso_tail vdd_active rx_p eq_reset capture_clk captured_q
X0 vss a_1634_36159# a_1592_36047# vss sky130_fd_pr__nfet_01v8 ad=0.12095 pd=1.085 as=0.0696 ps=0.765 w=0.42 l=0.15
X1 rx_p out_p vss vss sky130_fd_pr__nfet_01v8 ad=0.1218 pd=1.42 as=0.1218 ps=1.42 w=0.42 l=0.15
X2 a_1561_36413# a_1027_36047# vss vss sky130_fd_pr__pfet_01v8_hvt ad=0.07665 pd=0.785 as=0.06825 ps=0.745 w=0.42 l=0.15
X3 vss a_1634_36159# a_1561_36413# vss sky130_fd_pr__pfet_01v8_hvt ad=0.17887 pd=1.26 as=0.07665 ps=0.785 w=0.42 l=0.15
X4 a_1891_36413# a_1027_36047# a_1634_36159# vss sky130_fd_pr__pfet_01v8_hvt ad=0.0567 pd=0.69 as=0.1095 ps=1.075 w=0.42 l=0.15
X5 out_p out_n vdd_active vdd_active sky130_fd_pr__pfet_01v8 ad=6.72 pd=10.4 as=6.24 ps=10 w=2.4 l=0.6
X6 vss out_n vss vss sky130_fd_pr__nfet_01v8 ad=0.1218 pd=1.42 as=18.0388 ps=34.38 w=0.42 l=0.15
X7 vss a_1891_36413# a_2059_36315# vss sky130_fd_pr__nfet_01v8 ad=0.08775 pd=0.92 as=0.169 ps=1.82 w=0.65 l=0.15
X8 latch_sense_n eq_reset latch_sense_p vdd_active sky130_fd_pr__pfet_01v8 ad=3.24 pd=7.8 as=3.24 ps=7.8 w=1.2 l=0.6
X9 a_1975_36413# a_1193_36047# a_1891_36413# vss sky130_fd_pr__pfet_01v8_hvt ad=0.0882 pd=0.84 as=0.0567 ps=0.69 w=0.42 l=0.15
X10 vdd reset out_n vdd sky130_fd_pr__pfet_01v8 ad=3.12 pd=7.6 as=3.36 ps=8 w=1.2 l=0.6
X11 captured_q a_2059_36315# vss vss sky130_fd_pr__nfet_01v8 ad=0.169 pd=1.82 as=0.08775 ps=0.92 w=0.65 l=0.15
X12 tail out_p out_n vss sky130_fd_pr__nfet_01v8 ad=3.12 pd=7.6 as=3.36 ps=8 w=1.2 l=0.6
X13 vss vss sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X14 a_1634_36159# vss vss vss sky130_fd_pr__pfet_01v8_hvt ad=0.1095 pd=1.075 as=0.17887 ps=1.26 w=0.75 l=0.15
X15 a_1891_36413# a_1193_36047# a_1634_36159# vss sky130_fd_pr__special_nfet_01v8 ad=0.0684 pd=0.74 as=0.0989 ps=0.995 w=0.36 l=0.15
X16 out_p reset vdd vdd sky130_fd_pr__pfet_01v8 ad=3.36 pd=8 as=3.12 ps=7.6 w=1.2 l=0.6
X17 vss vss sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X18 a_2017_36047# a_1027_36047# a_1891_36413# vss sky130_fd_pr__special_nfet_01v8 ad=0.066 pd=0.745 as=0.0684 ps=0.74 w=0.36 l=0.15
X19 out_p out_n tail vss sky130_fd_pr__nfet_01v8 ad=3.36 pd=8 as=3.12 ps=7.6 w=1.2 l=0.6
X20 a_1381_36047# vss vss vss sky130_fd_pr__nfet_01v8 ad=0.0813 pd=0.83 as=0.1092 ps=1.36 w=0.42 l=0.15
X21 tail latch_sense_n out_n vss sky130_fd_pr__nfet_01v8 ad=3.12 pd=7.6 as=3.36 ps=8 w=1.2 l=0.6
X22 vss a_2059_36315# a_1975_36413# vss sky130_fd_pr__pfet_01v8_hvt ad=0.1113 pd=1.37 as=0.0882 ps=0.84 w=0.42 l=0.15
X23 tail eval vss vss sky130_fd_pr__nfet_01v8 ad=16.2 pd=17.4 as=16.2 ps=17.4 w=6 l=0.6
X24 a_1891_36413# vss sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X25 vss a_1193_36047# a_1381_36047# vss sky130_fd_pr__pfet_01v8_hvt ad=0.06825 pd=0.745 as=0.05775 ps=0.695 w=0.42 l=0.15
X26 vss a_1027_36047# a_1381_36047# vss sky130_fd_pr__special_nfet_01v8 ad=0.0621 pd=0.705 as=0.0813 ps=0.83 w=0.36 l=0.15
X27 captured_q a_2059_36315# vss vss sky130_fd_pr__pfet_01v8_hvt ad=0.26 pd=2.52 as=0.135 ps=1.27 w=1 l=0.15
X28 vss a_1891_36413# a_2059_36315# vss sky130_fd_pr__pfet_01v8_hvt ad=0.135 pd=1.27 as=0.27 ps=2.54 w=1 l=0.15
X29 a_1891_36413# vss sky130_fd_pr__cap_mim_m3_1 l=2 w=2
X30 out_p latch_sense_p tail vss sky130_fd_pr__nfet_01v8 ad=3.36 pd=8 as=3.12 ps=7.6 w=1.2 l=0.6
X31 a_1381_36047# vss vss vss sky130_fd_pr__pfet_01v8_hvt ad=0.05775 pd=0.695 as=0.1092 ps=1.36 w=0.42 l=0.15
X32 a_1634_36159# vss vss vss sky130_fd_pr__nfet_01v8 ad=0.0989 pd=0.995 as=0.12095 ps=1.085 w=0.64 l=0.15
X33 vss a_2059_36315# a_2017_36047# vss sky130_fd_pr__nfet_01v8 ad=0.1092 pd=1.36 as=0.066 ps=0.745 w=0.42 l=0.15
X34 iso_tail sense_n latch_sense_n vss sky130_fd_pr__nfet_01v8 ad=3.12 pd=7.6 as=3.36 ps=8 w=1.2 l=0.6
X35 rx_p out_p vdd_active vdd_active sky130_fd_pr__pfet_01v8 ad=0.1218 pd=1.42 as=0.1218 ps=1.42 w=0.42 l=0.15
X36 a_1193_36047# a_1027_36047# vss vss sky130_fd_pr__pfet_01v8_hvt ad=0.1664 pd=1.8 as=0.0864 ps=0.91 w=0.64 l=0.15
X37 a_1592_36047# a_1193_36047# vss vss sky130_fd_pr__special_nfet_01v8 ad=0.0696 pd=0.765 as=0.0621 ps=0.705 w=0.36 l=0.15
X38 vdd_active out_n vss vdd_active sky130_fd_pr__pfet_01v8 ad=0.1218 pd=1.42 as=0.1218 ps=1.42 w=0.42 l=0.15
X39 vss capture_clk a_1027_36047# vss sky130_fd_pr__pfet_01v8_hvt ad=0.0864 pd=0.91 as=0.1664 ps=1.8 w=0.64 l=0.15
X40 a_1193_36047# a_1027_36047# vss vss sky130_fd_pr__nfet_01v8 ad=0.1092 pd=1.36 as=0.0567 ps=0.69 w=0.42 l=0.15
X41 vss capture_clk a_1027_36047# vss sky130_fd_pr__nfet_01v8 ad=0.0567 pd=0.69 as=0.1092 ps=1.36 w=0.42 l=0.15
X42 vdd_active out_p out_n vdd_active sky130_fd_pr__pfet_01v8 ad=6.24 pd=10 as=6.72 ps=10.4 w=2.4 l=0.6
X43 latch_sense_p sense_p iso_tail vss sky130_fd_pr__nfet_01v8 ad=3.36 pd=8 as=3.12 ps=7.6 w=1.2 l=0.6
.ends
